US07368453B2
Step 5. Synthesis of 1,1-Dimethylethyl(2R,3S)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-2-methyl-1-pyrrolidinecarboxylate
Superhydride (45.8 mL, 1M, 45.8 mmol) was added dropwise to an ice cold solution of 1,1-dimethylethyl(2R,3S)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-2-{[(methylsulfonyl)oxy]methyl}-1-pyrrolidinecarboxylate (4.69 g, 11.47 mmol) in THF. The reaction was warmed to room temperature and stirred for 16 hours. The reaction was quenched with i-propanol until gas evolution ceased. The reaction was diluted with saturated NaHCO3 then extracted with ethyl acetate, dried over MgSO4 and concentrated under reduced pressure. The crude material was purified by silica gel column chromatography to yield the title compound (2.69 g, 8.5 mmol). 1H NMR (400 MHz, DMSO-D6) δ ppm 0.0 (s, 6 H) 0.8 (s, 9 H) 1.0 (m, 3 H) 1.4 (s, 9 H) 1.6 (m, 1 H) 2.0 (m, 1 H) 3.3 (m, 2 H) 3.5 (m, 1 H) 4.0 (m, 1 H). ES+=316.22.

reactant | Superhydride | 45.8 mmol, 1M, 45.8 mL | [Li+].[B-](CC)(CC)CC
reactant | 1,1-dimethylethyl(2R,3S)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-2-{[(methylsulfonyl)oxy]methyl}-1-pyrrolidinecarboxylate | 11.47 mmol, 4.69 g | CC(C)(C)[Si](O[C@@H]1[C@H](N(CC1)C(=O)OC(C)(C)C)COS(=O)(=O)C)(C)C | C17H35NO6SSi
solvent | THF | C1CCOC1 | C4H8O
product | 1,1-Dimethylethyl(2R,3S)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-2-methyl-1-pyrrolidinecarboxylate | 8.5 mmol, 2.69 g | CC(C)(C)[Si](O[C@@H]1[C@H](N(CC1)C(=O)OC(C)(C)C)C)(C)C | C16H33NO3Si
